US08314138B2
Synthesis of 2-{1-[2-(4-fluoro-phenyl)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid pyridin-3-ylamide
The title compound was prepared from 2-{1-[2-(4-fluoro-phenyl)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid and pyridine-3-ylamine as describe in Example 88 and isolated as a yellow solid (0.085 g, 71% yield). 1H NMR (400 MHz, CDCl3) δ 8.63 (d, J=2.27 Hz, 1H), 8.40 (d, J=4 Hz, 1H), 8.23 (d, J=4 Hz, 1H), 7.61 (s, 1H), 7.32-7.36 (m, 1H), 7.18 (d, J=2 Hz, 1H), 6.91-7.05 (m, 4H), 6.76 (d, J=2 Hz, 1H), 4.37 (t, J=7 Hz, 2H), 3.19 (t, J=7 Hz, 2H), 2.81 (s, 3H); MS (M+H)+=408.1; Rt=1.32 min; HRMS (M+H)+=408.13.

reactant | 2-{1-[2-(4-fluoro-phenyl)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid | FC1=CC=C(C=C1)CCN1N=C(C=C1)C=1SC(=C(N1)C)C(=O)O | C16H14FN3O2S
reactant | pyridine-3-ylamine | N1=CC(=CC=C1)N | C5H6N2
product | 2-{1-[2-(4-fluoro-phenyl)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid pyridin-3-ylamide | N1=CC(=CC=C1)NC(=O)C1=C(N=C(S1)C1=NN(C=C1)CCC1=CC=C(C=C1)F)C | C21H18FN5OS
